Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
shortness of breath, cough, fatigue
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with past medical history of asthma (requiring
intubation, ___ presenting with 1 day of shortness of breath 
as
well as productive cough and congestion. He has been using
albuterol every ___ minutes at home without relief.

Due to increased work of breathing, patient was placed on BiPAP
briefly in the ED for comfort. He was treated with IV 
methylpred,
Mg+, and nebulizers in the ED. Per report from the ED, he was 
not
hypoxic, and BiPAP was removed prior to ICU transfer. VBG on
BiPAP 7.44/37/26. 

He otherwise denies any chest pain, abdominal pain,
nausea/vomiting. Patient denies any sick contacts that he can
remember. Denies any
recent foreign travel, immobilization, or lower extremity
swelling.

In the ED,  
- Initial Vitals: Temp: 103.0 HR: 119 BP: 144/84 Resp: 28 O2 
Sat:
96% RA, Peak Flow 200 

- Exam:  
GA: Comfortable
HEENT: No scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Diffuse wheezes bilaterally, able to speak in full
sentences
Abdominal: Soft, non-tender, non-distended
Extremities: No lower leg edema
Integumentary: No rashes noted
- Labs:  
- WBC 6.5, HgB 13.2, Plt 192
- BUN/Cr, ___
- Na+ 134, K+ 3.3
- Flu A PCR positive, Flu B PCR negative
- Imaging:  
CXR: No acute cardiopulmonary abnormality
- Consults: Respiratory therapy
- Interventions:  
___ 19:33 IV MethylPREDNISolone Sodium Succ 80 mg 
___ 19:33 IH Ipratropium-Albuterol Neb 1 NEB 
___ 19:33 IV Magnesium Sulfate   
___ 19:51 PO Acetaminophen 1000 mg  
___ 20:37 IV Magnesium Sulfate 2 gm  
___ 21:44 IH Albuterol 0.083% Neb Soln 1 NEB

On arrival to the floor, patient is wearing nasal cannula and
reports feeling significant improvement from arrival. He 
endorses
that he had been feeling poorly for about two days and just 
today
began feeling extremely fatigued. He believes he had the flu 
shot
this year at a PCP ___. He has had care at ___ in the
past for his asthma including being on flovent in the past, but
has not been on anything other than albuterol for several years,
maybe since ___. He endorses that cold weather can be a trigger
for his asthma. When ill sometimes uses his albuterol inhaler
constantly, and other times only ___ times a week. Will use it
prior to physical activity such as playing basketball.

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
Asthma 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
VS: T 98.3 HR 77 BP 159/106 RR 11 SpO2 100% 2L O2
GEN:  alert, awake, well developed man appears stated age 
sitting
upright in bed in no acute distress with nasal cannula
EYES:  sclera anicteric, PERRLA, EOMI
HENNT:  NC/AT, MMM
CV:  regular rate/rhythm, no m/r/g
RESP:  inspiratory and expiratory wheezes diffusely b/l
GI:  soft nt/nd, normoactive BS, no HSM/masses
MSK:  no peripheral edema, warm and well perfused
SKIN:  no rashes
NEURO:  grossly normal, oriented x3

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Breathing is non-labored, no crackles, rare L-sided 
expiratory wheezing
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS
___ 07:00PM BLOOD WBC-6.5 RBC-5.23 Hgb-13.2* Hct-39.7* 
MCV-76* MCH-25.2* MCHC-33.2 RDW-15.1 RDWSD-41.0 Plt ___
___ 07:00PM BLOOD Neuts-67.2 Lymphs-18.4* Monos-13.0 
Eos-0.2* Baso-0.9 Im ___ AbsNeut-4.34 AbsLymp-1.19* 
AbsMono-0.84* AbsEos-0.01* AbsBaso-0.06
___ 07:00PM BLOOD Glucose-120* UreaN-5* Creat-1.0 Na-134* 
K-3.3* Cl-96 HCO3-22 AnGap-16
___ 03:07AM BLOOD Iron-11*
___ 03:07AM BLOOD calTIBC-287 Ferritn-174 TRF-221
___ 12:27AM BLOOD ___ pO2-66* pCO2-37 pH-7.44 
calTCO2-26 Base XS-0

PERTINENT STUDIES
CXR ___
IMPRESSION:  
No acute cardiopulmonary abnormality. 

Discharge labs

___ 03:07AM BLOOD WBC-4.6 RBC-4.95 Hgb-12.5* Hct-37.4* 
MCV-76* MCH-25.3* MCHC-33.4 RDW-15.1 RDWSD-40.6 Plt ___
___ 03:07AM BLOOD Glucose-152* UreaN-7 Creat-0.8 Na-136 
K-4.0 Cl-99 HCO3-22 AnGap-15
___ 03:07AM BLOOD Iron-11*
___ 03:07AM BLOOD calTIBC-287 Ferritn-174 TRF-221
___ 03:43AM BLOOD ___ pO2-52* pCO2-35 pH-7.46* 
calTCO2-26 Base XS-1
 
Brief Hospital Course:
Mr. ___ is a ___ male w/ PMH asthma (requiring 
intubation ___ who presents with 1 day of shortness of breath, 
productive cough, congestion, c/w asthma exacerbation ___ 
influenza infection. Patient was briefly on BiPAP and admitted 
to
ICU. He was started on steroids. BiPAP was weaned and patient 
maintained on ___ L NC. He was monitored in the ICU briefly then 
called out to the floors on ___.

#Asthma exacerbation  
#Influenza A positive - Patient presented with SOB refractory 
his albuterol inhaler at home. Due to increased work of 
breathing, patient was placed on BiPAP briefly in the ED for 
comfort. He was treated with IV methylpred, Mg+, and nebulizers 
in the ED. Per report from the ED, he was not hypoxic, and BiPAP 
was removed prior to ICU transfer. VBG on BiPAP 7.44/37/___. He 
was briefly monitored in the ICU, started on tamiflu and called 
out to the floors on ___. He was weaned to room air by ___. He 
was continued on PO prednisone (EOT ___ and Tamiflu (EOT 
___. 

#Microcytic anemia with low iron levels, normal ferritin: may 
need further outpatient work up, started on PO iron 
supplementation

Transitional care issues
[ ] needs formal PFTs for asthma, consider referral to 
pulmonologist
[ ] work up of mild anemia

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  OSELTAMivir 75 mg PO BID 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*5 
Capsule Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 4 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate [Proventil HFA] 90 mcg 1 puff INH every 4 
hours Disp #*3 Inhaler Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Asthma exacerbation
Influenza a

SECONDARY DIAGNOSES:
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted for an asthma exacerbation related to flu 
infection. ___ were briefly on a BiPAP machine to help your 
breathing. ___ were given steroids and breathing treatments with 
improvement in your asthma symptoms. ___ were started on a 
medication to help with the flu infection as well. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- ___ were admitted to the hospital because ___ had shortness of 
breath.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, it was determined that your shortness of 
breath was due to an asthma exacerbation.  Your flu swab was 
positive, and this was the likely cause of your asthma 
exacerbation.

- ___ were given supplemental oxygen.

- ___ were given medications including albuterol, steroids, and 
magnesium to treat your asthma exacerbation.  ___ were also 
placed on antivirals for your flu.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.

-Make sure ___ receive her flu shot every year.

-___ should have regular follow-up with a pulmonologist for 
management of your asthma.

We wish ___ the best!
Your ___ Care Team 
 
Followup Instructions:
___